US08283363B2
78.3 (2R)-1-benzyl-N-(4-(cyclopropylmethoxyamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide
The reaction can be carried out in analogy to reaction step 20.3 by reacting 3-((R)-1-benzyl-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoic acid with O-(cyclopropylmethyl)hydroxylamine.

reactant | 3-((R)-1-benzyl-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoic acid | C(C1=CC=CC=C1)N1[C@H](CCC1=O)C(=O)NC(C(C(=O)O)O)CC1=CC=CC=C1 | C22H24N2O5
reactant | O-(cyclopropylmethyl)hydroxylamine | C1(CC1)CON | C4H9NO
product | (2R)-1-benzyl-N-(4-(cyclopropylmethoxyamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide | C(C1=CC=CC=C1)N1[C@H](CCC1=O)C(=O)NC(CC1=CC=CC=C1)C(C(=O)NOCC1CC1)O | C26H31N3O5
